US07112587B2
Synthesis of 6-ethoxy-N-(3-Chloro-4-methoxy phenyl)-N′-cyclo heptyl-[1,3,5]triazine-2,4 diamine (E33)
A portion of 6-chloro-N-(3-chloro-4-methoxyphenyl)-N′-cycloheptyl-[1,3,5]triazine-2,4-diamine (5 g) was refluxed in ethanol in presence of K2CO3 (3.2 g) for about 8-10 h. TLC was monitored. After the completion of the reaction, the reaction mass was filtered through vacuum and the filtrate was evaporated to yield the title compound. (Wt. 4.6 g Y: 90%).

reactant | 6-chloro-N-(3-chloro-4-methoxyphenyl)-N′-cycloheptyl-[1,3,5]triazine-2,4-diamine | 5 g | ClC1=NC(=NC(=N1)NC1=CC(=C(C=C1)OC)Cl)NC1CCCCCC1 | C17H21Cl2N5O
reactant | K2CO3 | 3.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
product | 6-ethoxy-N-(3-Chloro-4-methoxy phenyl)-N′-cyclo heptyl-[1,3,5]triazine-2,4 diamine | C(C)OC1=NC(=NC(=N1)NC1=CC(=C(C=C1)OC)Cl)NC1CCCCCC1 | C19H26ClN5O2
